Xyce structural compatibility fixture
.subckt divider in out
R1 in out 10k
R2 out 0 10k
.ends divider
X1 vin vout divider
V1 vin 0 1
.print tran V(vout)
.end
